* C:\Users\zewen\Downloads\nanowirepp\spice\circuit.asc
I1 N004 0 PWL file=C:\Users\zewen\Downloads\nanowirepp\pwl\gaussian_1.txt
V1 N001 0 SINE(0 2 10MEG 0 0 0)
R1 N001 N002 100k
XU1 N002 0 unused N004 result-pulse 0 nanowire
B1 N003 0 V=V(result-pulse)
A1 N003 0 0 0 0 pwm-low-1 pwm-high-1 0 SCHMITT vt=1m vh=0 vhigh=3 vlow=0
A2 N003 0 0 0 0 pwm-low-2 pwm-high-2 0 SCHMITT vt=-1m vh=0 vhigh=3 vlow=0
B2 pwm-3V 0 V=V(pwm-high-1)+V(pwm-low-2)
B3 N005 0 V=V(pwm-3V)
V2 N008 0 0
C2 volt-lvl N008 1µ
C1 N006 N005 10
D1 N008 N006 1N5817
D2 N006 volt-lvl 1N5817
V3 N007 0 2
R3 volt-R3 0 R=100k-10k*V(volt-lvl)
R2 N007 volt-R3 100
V4 volt-R4 0 2
R4 volt-R4 0 R=100k-10k*V(volt-lvl)
I2 N012 0 PWL file=C:\Users\zewen\Downloads\nanowirepp\pwl\gaussian_2.txt
V5 N009 0 SINE(0 1.9 10MEG 0 0 0)
R5 N009 N010 R=100k-10k*V(volt-lvl)
XU2 N010 0 unused-2 N012 result-pulse-2 0 nanowire
B4 N011 0 V=V(result-pulse-2)
A3 N011 0 0 0 0 pwm-low-1-2 pwm-high-1-2 0 SCHMITT vt=1m vh=0 vhigh=3 vlow=0
A4 N011 0 0 0 0 pwm-low-2-2 pwm-high-2-2 0 SCHMITT vt=-1m vh=0 vhigh=3 vlow=0
B5 pwm-3V-2 0 V=V(pwm-high-1-2)+V(pwm-low-2-2)
B6 N013 0 V=V(pwm-3V-2)
V6 N015 0 0
C3 volt-lvl-2 N015 1µ
C4 N014 N013 10
D3 N015 N014 1N5817
D4 N014 volt-lvl-2 1N5817
V7 volt-R6 0 2
R6 volt-R6 0 R=100k-10k*V(volt-lvl-2)
.model D D
.lib C:\Users\zewen\AppData\Local\LTspiceXVII\lib\cmp\standard.dio
;.tran 0 500n 0 1p
.lib nanowire.lib
.tran 0 1e-06 0 1
.backanno
.end
